US08633173B2
169 e) N-Methyl-N-[3-({2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-phenyl]-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (82.0 mg, 0.224 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (48.0 mg, 0.251 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.024 g, 21%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.82 (d, J=6.6 Hz, 1H), 7.47 (d, J=8.8 Hz, 2H), 7.42-7.28 (m, 4H), 6.96 (d, J=8.8 Hz, 2H), 6.65 (t, J=7.2 Hz, 1H), 6.54 (s, 1H), 6.29 (d, J=7.6 Hz, 1H), 5.19 (t, J=5.6 Hz, 1H), 4.49 (d, J=5.6 Hz, 2H), 3.30 (s, 3H), 3.17-3.13 (m, 4H), 2.81 (s, 3H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=521 (MH)+.

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.224 mmol, 82.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.251 mmol, 48.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-[3-({2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-phenyl]-methanesulfonamide | CN(S(=O)(=O)C)C1=CC(=CC=C1)CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C26H32N8O2S
